US05578627
To a suspension of 5-chloro-3-(3-methoxy-2-tritylaminopropoxy)-1,2-benzoisoxazole in 49 ml of 2-propanol is added 1.5 ml of a 2-propanol solution (7.5N) of hydrogen chloride, and they are refluxed for ten minutes, after which the crystals are collected by filtration, to obtain 2.34 g of colorless, crystalline 3-(2-amino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 200°-202° C.

reactant | 5-chloro-3-(3-methoxy-2-tritylaminopropoxy)-1,2-benzoisoxazole | ClC=1C=CC2=C(C(=NO2)OCC(COC)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C30H27ClN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | 49 ml | CC(C)O | C3H8O
solvent | 2-propanol | 7.5N, 1.5 ml | CC(C)O | C3H8O
product | 3-(2-amino-3-methoxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC | InChI=1S/C11H13ClN2O3.ClH/c1-15-5-8(13)6-16-11-9-4-7(12)2-3-10(9)17-14-11;/h2-4,8H,5-6,13H2,1H3;1H
